US05500406
16.9 g (150 mmol) of creatinine was dissolved in 100 ml of N,N-dimethylformamide. Then, 27.6 g (194 mmol) of methyl iodide was added thereto, and the mixture was heated to 50° C. and stirred at that temperature for 2 hours and further at room temperature overnight. To the reaction mixture, 500 ml of ethyl acetate was added, and crystals were collected by filtration. The obtained crystals were washed with ethyl acetate and dried to obtain 26.2 g of 2-imino-1,3-dimethylimidazolidin-4-one hydroiodide as white crystals.

reactant | creatinine | 150 mmol, 16.9 g | CN1CC(=O)N=C1N | C4H7N3O
reactant | methyl iodide | 194 mmol, 27.6 g | CI | CH3I
reactant | ethyl acetate | 500 ml | C(C)(=O)OCC | C4H8O2
solvent | N,N-dimethylformamide | 100 ml | CN(C=O)C | C3H7NO
product | 2-imino-1,3-dimethylimidazolidin-4-one hydroiodide | 26.2 g | I.N=C1N(CC(N1C)=O)C | InChI=1S/C5H9N3O.HI/c1-7-3-4(9)8(2)5(7)6;/h6H,3H2,1-2H3;1H
